US08053457B2
[4-(1-Methyl-piperidin-4-ylmethyl)-piperazin-1-yl]-acetonitrile
The title compound is synthesized by coupling of 1-(1-Methyl-piperidin-4-ylmethyl)-piperazine (commercially available from CHESS GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+H=237.3.

reactant | 1-(1-Methyl-piperidin-4-ylmethyl)-piperazine | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | [4-(1-Methyl-piperidin-4-ylmethyl)-piperazin-1-yl]-acetonitrile | CN1CCC(CC1)CN1CCN(CC1)CC#N | C13H24N4
